US07176210B2
Preparation of Intermediate 7-Chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-6-methylpyrazolo[1,5-a]pyrimidine (I-3A-1d)
To a slurry of 3-(4-chlorophenyl)-2-(2-chlorophenyl)-6-methylpyrazolo[1,5-a]pyrimidin-7-ol (I-3A-1c; 119 mg, 0.321 mmol) and diisopropylethylamine (0.084 ml, 0.48 mmol) in toluene (2.2 ml) at room temperature was added POCl3 (0.15 ml, 1.61 mmol), dropwise. The mixture was heated at 100° C. for 22 hours, cooled to room temperature, then slowly added to a stirred mixture of ice, saturated aqueous sodium bicarbonate and ethyl acetate. The aqueous layer was separated and extracted with additional ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), and then concentrated, in vacuo, to afford the crude product (120 mg). Purification on a Biotage™ Flash 12M column using 0–8% ethyl acetate in hexanes as eluant afforded I-3A-1d (102 mg, 82%) as a yellow solid: +ESI MS (M+1) 388.1; 1H NMR (400 MHz, CD2Cl2) δ 8.44 (s, 1H), 7.55–7.37 (m, 6H), 7.27 (d, J=8.7 Hz, 2H), 2.51 (s, 3H).

reactant | 3-(4-chlorophenyl)-2-(2-chlorophenyl)-6-methylpyrazolo[1,5-a]pyrimidin-7-ol | 0.321 mmol, 119 mg | ClC1=CC=C(C=C1)C=1C(=NN2C1N=CC(=C2O)C)C2=C(C=CC=C2)Cl | C19H13Cl2N3O
reactant | diisopropylethylamine | 0.48 mmol, 0.084 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | POCl3 | 1.61 mmol, 0.15 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 2.2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-6-methylpyrazolo[1,5-a]pyrimidine | 120 mg | ClC1=C(C=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)C | C19H12Cl3N3
